US04582933
Proceeding as in Example 1, 60 g 3-diethylamino-2,2-dimethylpropylamine; 27.3 g acrylic acid; 1.0 g N,N'-diphenyl-p-phenylenediamine; and 1 ml 85% phosphoric acid were mixed. 47.5 g (59%) N-(3-diethylamino-2,2-dimethylpropyl)acrylamide, boiling point 139° to 141° C. at 1.33 Pa, were isolated.

reactant | 3-diethylamino-2,2-dimethylpropylamine | 60 g | C(C)N(CC(CN)(C)C)CC | C9H22N2
reactant | acrylic acid | 27.3 g | C(C=C)(=O)O | C3H4O2
reactant | phosphoric acid | 1 ml | P(O)(O)(O)=O | H3O4P
catalyst | N,N'-diphenyl-p-phenylenediamine | 1.0 g | C=1C=CC(=CC1)NC=2C=CC(=CC2)NC=3C=CC=CC3 | C18H16N2
product | N-(3-diethylamino-2,2-dimethylpropyl)acrylamide | 47.5 g, 59% | C(C)N(CC(CNC(C=C)=O)(C)C)CC | C12H24N2O
